US05663336
4,5-Bis(2-cyanoanilino)phthalimide
A solution of 581 mg (1 mmol) of 4,5-bis(2-iodoanilino)phthalimide and 197 mg (2.2 mmol) of copper(I) cyanide in DMF is stirred for 6 hours at 130°-140° C., the dark-brown solution changing into a dark-yellow suspension. The reaction mixture is cooled to 80° C. and diluted with 8 ml ethyl acetate. After further cooling to 60°-70° C., a solution of 467 mg (2.88 mmol) of iron(III) chloride in 1.6 ml of water and 300 μl of concentrated hydrochloric acid is added dropwise and the mixture is stirred for 30 minutes. 2 ml of water and Hyflo Super Cel® (kieselguhr from Fluka, Buchs, Switzerland) are added to the reaction mixture which is then filtered through Hyflo Super Gel® and the phases are separated. The aqueous phase is extracted once with ethyl acetate and the combined organic phases are washed twice with water, once with saturated sodium hydrogen carbonate solution and twice more with water, dried over magnesium sulfate and concentrated by evaporation. The resulting oily brown crystal mixture is chromatographed on silica gel with ethyl acetate/hexane 2:3. The product fractions are concentrated by evaporation and crystallized from boiling dichloromethane, yielding the title compound in the form of pale-yellow crystals: FAB-MS: 380 (M+ +H), m.p.: 279°-280° C.

reactant | 4,5-bis(2-iodoanilino)phthalimide | 1 mmol, 581 mg | IC1=C(NC=2C=C3C(C(=O)NC3=O)=CC2NC2=C(C=CC=C2)I)C=CC=C1 | C20H13I2N3O2
reactant | copper(I) cyanide | 2.2 mmol, 197 mg | [Cu]C#N
reactant | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 1.6 ml | O | H2O
solvent | hydrochloric acid | 300 μl | Cl | ClH
catalyst | iron(III) chloride | 2.88 mmol, 467 mg | [Fe](Cl)(Cl)Cl
solvent | water | 2 ml | O | H2O
product | 4,5-Bis(2-cyanoanilino)phthalimide | C(#N)C1=C(NC=2C=C3C(C(=O)NC3=O)=CC2NC2=C(C=CC=C2)C#N)C=CC=C1 | C22H13N5O2
